US04556674
(a) 1-Methyl-4-(2-benzofuryl)-pyrrolidin-2-one
The compound is prepared from 4-(2-benzofuryl)-pyrrolidin-2-one, sodium hydride and methyl iodide, as described in Example 5. B.p. (0.3 mm Hg)=172° C. M.p. 73° C. Yield: 81%.

reactant | 4-(2-benzofuryl)-pyrrolidin-2-one | O1C(=CC2=C1C=CC=C2)C2CC(NC2)=O | C12H11NO2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
product | 1-Methyl-4-(2-benzofuryl)-pyrrolidin-2-one | Yield: 81% | CN1C(CC(C1)C=1OC2=C(C1)C=CC=C2)=O | C13H13NO2
